US07241785B2
A mixture of (3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)methanol (5.61 g), active manganese dioxide (15.00 g) and tetrahydrofuran (75 ml) was stirred overnight at room temperature. Manganese dioxide was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde (5.03 g, yield 90%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (2:1, volume ratio). The crystals were recrystallized from tetrahydrofuran-hexane. melting point: 153–154° C.

reactant | (3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)methanol | 5.61 g | C(C1=CC=CC=C1)OC1=NN(C=C1CO)C1=CC=CC=C1 | C17H16N2O2
catalyst | manganese dioxide | 15.00 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 5.03 g, yield 90% | C(C1=CC=CC=C1)OC1=NN(C=C1C=O)C1=CC=CC=C1 | C17H14N2O2
